US08466167B2
A solution of tert-butyl 5-(methoxymethyl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (from the previous step) (1.0 eq.) and 3-bromopicolino-nitrile (1.0 eq.) in toluene (0.44 M) was mixed with tetrakis(triphenyl-phosphine)palladium (5 mol %) and 2N aqueous potassium carbonate solution (2.0 eq.). The reaction was heated to 100° C. and stirred overnight. After cooling to ambient temperature, the reaction mixture was diluted with 2% MeOH in DCM and water. The two phases were separated, and the aqueous layer was extracted twice with 2% MeOH in DCM. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-100% EtOAc/Hexanes to give 8-(methoxymethyl)benzo[f][1,7]naphthyridin-5-amine as a white solid: 1H NMR (methanol-d4): δ 8.97 (dd, 1H), 8.91 (dd, 1H), 8.41 (dd, 1H), 7.83 (dd, 1H), 7.59 (d, 1H), 7.37 (dd, 1H), 4.62 (s, 2H), 3.45 (s, 3H). LRMS [M+H]=240.1.

reactant | tert-butyl 5-(methoxymethyl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | COCC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C19H30BNO5
reactant | 3-bromopicolino-nitrile | 1.0 eq. | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | potassium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.44 M | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 8-(methoxymethyl)benzo[f][1,7]naphthyridin-5-amine | COCC1=CC=2C(=C3C=CC=NC3=C(N2)N)C=C1 | C14H13N3O
